US07405236B2
c] {6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid
In analogy to the procedure described for example 1 e], {6-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as green crystals.

reactant | {6-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCCC#CC1=CC(=CC=C1)OC(F)(F)F)=O | C24H22F3NO4
reactant | LiOH | [Li+].[OH-]
product | {6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid | FC(OC=1C=C(C=CC1)C#CCCCOC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C22H18F3NO4
